US09107916B2
A. 2-[5-[(3,3-difluorocyclobutyl)methoxy]pyrazol-1-yl]pyridine-4-carbonitrile
The title compound was prepared from 2-(5-hydroxy-1H-pyrazol-1-yl)pyridine-4-carbonitrile and (3,3-difluorocyclobutyl)methanol according to the procedure for the preparation of Example 39, part C. 1H NMR (400 MHz, CDCl3): δ 2.48-2.71 (5H, m), 5.14 (2H, d, J=4.4 Hz), 5.64 (1H, d, J=1.6 Hz), 7.34 (1H, dd, J=0.4 Hz, J=4.8 Hz), 7.51 (1H, d, J=2.0 Hz), 7.93 (1H, s), 8.61 (1H, d, J=4.8 Hz). [M+H] Calc'd for C14H12F2N4O, 291. Found, 291.

reactant | 2-(5-hydroxy-1H-pyrazol-1-yl)pyridine-4-carbonitrile | OC1=CC=NN1C1=NC=CC(=C1)C#N | C9H6N4O
reactant | (3,3-difluorocyclobutyl)methanol | FC1(CC(C1)CO)F | C5H8F2O
product | 2-[5-[(3,3-difluorocyclobutyl)methoxy]pyrazol-1-yl]pyridine-4-carbonitrile | FC1(CC(C1)COC1=CC=NN1C1=NC=CC(=C1)C#N)F | C14H12F2N4O
